US09422281B2
(S)-1-(6-bromo-2-ethyl-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one was synthesized according to the procedure outlined for (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone substituting (S)-2-aminobutan-1-ol for (S)-2-aminopropan-1-ol in the initial step. MS (ESI, pos. ion) m/z 241, 243 [M−42 (acyl)]+.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | (S)-2-aminopropan-1-ol | N[C@H](CO)C | C3H9NO
product | (S)-1-(6-bromo-2-ethyl-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)CC | C12H15BrN2O
